US07534788B2
Step 3: (2-Isobutyryl-5-methoxy-phenoxy)-acetic acid ethyl ester
To a solution of the above prepared 1-(2-hydroxy-4-methoxy-phenyl)-2-methyl-propan-1-one (5.43 g, 28 mmol) in 56 mL acetonitrile were successively added Cs2CO3 (10.9 g, 1.2 eq.) and ethyl bromoacetate (3.25 mL, 1.05 eq.) and the mixture vigorously stirred at ambient temperature for 2.5 h. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left 8.01 g of the title product as light yellow oil, sufficiently pure to be used for the next step.

reactant | 1-(2-hydroxy-4-methoxy-phenyl)-2-methyl-propan-1-one | 28 mmol, 5.43 g | OC1=C(C=CC(=C1)OC)C(C(C)C)=O | C11H14O3
reactant | Cs2CO3 | 10.9 g, 1.2 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl bromoacetate | 3.25 mL, 1.05 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 56 mL | C(C)#N | C2H3N
product | (2-Isobutyryl-5-methoxy-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC(=C1)OC)C(C(C)C)=O)=O | C15H20O5
